US06235731B1
To a solution of 2.541 g (12.441 mM) of 5-thia-1,8b-diazaacenaphthylene-4-methanol in 30 ml of N,N-dimethylformamide was added 6 g of activated manganese dioxide (Aldrich), and the mixture was stirred at room temperature overnight. This reaction mixture was filtered and the filter cake was washed with N,N-dimethylformamide. The filtrate and washes were combined and the solvent was distilled off under reduced pressure. The crude 5-thia-1,8b-diazaacenaphthylene-4-carbaldehyde thus obtained was not purified but used as it was in the next reaction.

reactant | 5-thia-1,8b-diazaacenaphthylene-4-methanol | 12.441 mM, 2.541 g | N=1C=C2C=C(SC3=CC=CC1N23)CO | C10H8N2OS
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | manganese dioxide | 6 g | [O-2].[O-2].[Mn+4]
product | 5-thia-1,8b-diazaacenaphthylene-4-carbaldehyde | N=1C=C2C=C(SC3=CC=CC1N23)C=O | C10H6N2OS
